* /home/ash98/esim-workspace/attiny85-test/attiny85-test.cir

v2  net-_u3-pad1_ gnd pulse(0 5 0 0 0 0.5e-6 1e-6)
r1  pb0 gnd 1k
* u3  net-_u3-pad1_ net-_u3-pad2_ adc_bridge_1
* u5  net-_u4-pad4_ pb0 dac_bridge_1
* u6  pb0 plot_v1
* u1  net-_u1-pad1_ gnd net-_u1-pad3_ net-_u1-pad4_ adc_bridge_2
v1 net-_u1-pad1_ gnd  dc 5
* u4  net-_u1-pad3_ net-_u1-pad4_ net-_u3-pad2_ net-_u4-pad4_ ? ? ? ? ? attiny_85_nghdl
a1 [net-_u3-pad1_ ] [net-_u3-pad2_ ] u3
a2 [net-_u4-pad4_ ] [pb0 ] u5
a3 [net-_u1-pad1_ gnd ] [net-_u1-pad3_ net-_u1-pad4_ ] u1
a4 [net-_u1-pad3_ ] [net-_u1-pad4_ ] [net-_u3-pad2_ ] [net-_u4-pad4_ ] [? ] [? ] [? ] [? ] [? ] u4
* Schematic Name: adc_bridge_1, NgSpice Name: adc_bridge
.model u3 adc_bridge(fall_delay=1.0e-9 in_high=2.0 rise_delay=1.0e-9 in_low=1.0 ) 
* Schematic Name: dac_bridge_1, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_undef=0.5 out_low=0.0 out_high=5.0 t_rise=1.0e-9 t_fall=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name: adc_bridge_2, NgSpice Name: adc_bridge
.model u1 adc_bridge(fall_delay=1.0e-9 in_high=2.0 rise_delay=1.0e-9 in_low=1.0 ) 
* Schematic Name: attiny_85_nghdl, NgSpice Name: attiny_85_nghdl
.model u4 attiny_85_nghdl(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 instance_id=1 ) 
.tran 0.5e-06 150e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(pb0)
.endc
.end
